* SpiceRL Boost Converter — AC Analysis (Middlebrook Injection)
* ============================================================
* Replica of boost_tran.net with loop break at feedback node.
* Same power stage + compensator, but with AC injection source
* and large inductor to maintain DC bias.
* ============================================================

.include models/cmos_180nm.lib
.include models/components.lib

* ---- Parameters (same as transient — agent sets these) ----
.param Vdd = 1.8
.param Vin = 0.9
.param Vout_target = 1.8
.param Iout = 0.2

.param W_main_um = 30000
.param W_rect_um = 40000
.param Lgate = 180n

.param L1_nH = 100
.param C1_nF = 100
.param fsw_MHz = 20

.param R_comp_kOhm = 10
.param C_comp_nF = 2.2
.param C_comp2_pF = 100

* Derived
.param fsw = {fsw_MHz * 1e6}
.param Tsw = {1 / fsw}
.param L1 = {L1_nH * 1e-9}
.param C1 = {C1_nF * 1e-9}
.param R_comp = {R_comp_kOhm * 1e3}
.param C_comp = {C_comp_nF * 1e-9}
.param C_comp2 = {C_comp2_pF * 1e-12}
.param W_main = {W_main_um * 1e-6}
.param W_rect = {W_rect_um * 1e-6}

.param Rload = {Vout_target / Iout}
.param Vref = 0.6
.param R_fb_top = 10k
.param R_fb_bot = {R_fb_top * Vref / (Vout_target - Vref)}

.param L1_DCR = 0.120
.param C1_ESR = 0.015

* ---- Input and Supply ----
Vin vin 0 {Vin}
Vdd vdd 0 {Vdd}

* ---- Ramp ----
V_ramp ramp 0 PULSE(0 {Vdd} 0 {Tsw*0.999} {Tsw*0.001} 0 {Tsw})

* ---- Feedback with LOOP BREAK ----
R_fb_top vout fb_before {R_fb_top}
R_fb_bot fb_after 0 {R_fb_bot}

* Loop break: L_break maintains DC, V_inject provides AC test signal
L_break fb_before fb_after 1G
V_inject fb_before fb_after AC 1

* ---- Type II Compensator ----
V_ref vref_node 0 {Vref}
B_ea comp_out 0 V = limit({100 * (V(vref_node) - V(fb_after))}, 0, {Vdd})

R4 comp_out comp_mid {R_comp}
C2 comp_mid fb_after {C_comp}
C3 comp_out fb_after {C_comp2}

* ---- PWM + Dead time ----
B_gate_main gate_main_pre 0 V = {if(V(comp_out) > V(ramp), Vdd, 0)}
B_gate_rect gate_rect_pre 0 V = {if(V(comp_out) > V(ramp), Vdd, 0)}
R_dt_main gate_main_pre gate_main 100
C_dt_main gate_main 0 10p
R_dt_rect gate_rect_pre gate_rect 100
C_dt_rect gate_rect 0 10p

* ---- Boost power stage ----
L1 vin sw {L1}
R_L1_dcr sw sw_dcr {L1_DCR}
M_main sw_dcr gate_main 0 0 nmos_180n L={Lgate} W={W_main}
M_rect sw_dcr gate_rect vout_pre vout_pre pmos_180n L={Lgate} W={W_rect}

* ---- Output ----
C1 vout_pre vout_esr {C1}
R_C1_esr vout_esr 0 {C1_ESR}
R_sense vout_pre vout 1m
R_load vout 0 {Rload}

* ===========================================================
* AC ANALYSIS
* ===========================================================
.ac dec 100 100 100Meg

* ---- Measurements ----
.meas AC crossover_freq_kHz WHEN mag(V(fb_after)/V(fb_before))=1
.meas AC phase_margin_deg FIND phase(V(fb_after)/V(fb_before)) WHEN mag(V(fb_after)/V(fb_before))=1
.meas AC gain_margin_dB FIND dB(V(fb_after)/V(fb_before)) WHEN phase(V(fb_after)/V(fb_before))=-180

.end
