* SpiceRL Boost Converter — Closed-Loop Transient (180nm Integrated)
* ============================================================
* Topology: Boost converter, 0.9V → 1.8V
* Use case: Battery boost-up for 180nm SoC
*
* Agent tunes:
*   W_main_um, W_rect_um — power transistor widths
*   L1_nH, C1_nF — passives
*   R_comp_kOhm, C_comp_nF, C_comp2_pF — compensator
*   fsw_MHz — switching frequency
* ============================================================

.include models/cmos_180nm.lib
.include models/components.lib

* ---- Parameters (agent-tunable) ----
.param Vdd = 1.8
.param Vin = 0.9
.param Vout_target = 1.8
.param Iout = 0.2

* Power transistor sizing
.param W_main_um = 30000
.param W_rect_um = 40000
.param Lgate = 180n

* Passive components
.param L1_nH = 100
.param C1_nF = 100
.param fsw_MHz = 20

* Compensator
.param R_comp_kOhm = 10
.param C_comp_nF = 2.2
.param C_comp2_pF = 100

* Derived
.param fsw = {fsw_MHz * 1e6}
.param Tsw = {1 / fsw}
.param L1 = {L1_nH * 1e-9}
.param C1 = {C1_nF * 1e-9}
.param R_comp = {R_comp_kOhm * 1e3}
.param C_comp = {C_comp_nF * 1e-9}
.param C_comp2 = {C_comp2_pF * 1e-12}
.param W_main = {W_main_um * 1e-6}
.param W_rect = {W_rect_um * 1e-6}

* Load and feedback
.param Rload = {Vout_target / Iout}
.param Vref = 0.6
.param R_fb_top = 10k
.param R_fb_bot = {R_fb_top * Vref / (Vout_target - Vref)}

* Inductor parasitics (scaled from Coilcraft 0805HP datasheet)
.param L1_DCR = {0.120 * sqrt(L1_nH / 100)}
.param L1_Cpar = {0.04p * (L1_nH / 100)}

* Capacitor parasitics (scaled from Würth WCAP-CSGP)
.param C1_ESR = {0.015 * (100 / C1_nF)**0.4}
.param C1_ESL = 300p

* Ron scales as 1/W
.param Ron_NMOS_main = {0.37 * 20000 / W_main_um}
.param Ron_PMOS_rect = {0.15 * 40000 / W_rect_um}

* ---- Input and Supply ----
Vin vin 0 {Vin}
Vdd vdd 0 {Vdd}

* ===========================================================
* SAWTOOTH RAMP
* ===========================================================
V_ramp ramp 0 PULSE(0 {Vdd} 0 {Tsw*0.999} {Tsw*0.001} 0 {Tsw})

* ===========================================================
* FEEDBACK DIVIDER
* ===========================================================
R_fb_top vout fb {R_fb_top}
R_fb_bot fb 0 {R_fb_bot}

* ===========================================================
* TYPE II COMPENSATOR
* ===========================================================
V_ref vref_node 0 {Vref}
B_ea comp_out 0 V = limit({100 * (V(vref_node) - V(fb))}, 0, {Vdd})

R4 comp_out comp_mid {R_comp}
C2 comp_mid fb {C_comp}
C3 comp_out fb {C_comp2}

* ===========================================================
* PWM COMPARATOR + DEAD TIME
* ===========================================================
* Main switch gate (NMOS, active high): ON when comp_out > ramp
B_gate_main gate_main_pre 0 V = {if(V(comp_out) > V(ramp), Vdd, 0)}
* Rectifier gate (PMOS, active low): ON when comp_out < ramp
B_gate_rect gate_rect_pre 0 V = {if(V(comp_out) > V(ramp), Vdd, 0)}

* Dead-time RC delay
R_dt_main gate_main_pre gate_main 100
C_dt_main gate_main 0 10p
R_dt_rect gate_rect_pre gate_rect 100
C_dt_rect gate_rect 0 10p

* ===========================================================
* BOOST POWER STAGE — 180nm MOSFETs
* ===========================================================
* Inductor on input side (with DCR and parallel capacitance)
L1 vin sw {L1}
R_L1_dcr sw sw_dcr {L1_DCR}
C_L1_par vin sw_dcr {L1_Cpar}

* Main switch: NMOS shunts sw node to ground (charging L)
M_main sw_dcr gate_main 0 0 nmos_180n L={Lgate} W={W_main}

* Synchronous rectifier: PMOS conducts from sw to vout (discharging L)
M_rect sw_dcr gate_rect vout_pre vout_pre pmos_180n L={Lgate} W={W_rect}

* ===========================================================
* OUTPUT CAPACITOR (with ESR + ESL)
* ===========================================================
L_C1_esl vout_pre c1_esl {C1_ESL}
C1 c1_esl c1_esr {C1}
R_C1_esr c1_esr 0 {C1_ESR}
R_sense vout_pre vout 1m

* ===========================================================
* LOAD
* ===========================================================
R_load vout 0 {Rload}

* Load step: at T_step, current doubles
.param T_step = {Tsw * 150}
I_load_step 0 vout PULSE(0 {Iout} {T_step} 10n 10n {T_step*0.5} {T_step*2})

* ===========================================================
* SIMULATION
* ===========================================================
.tran 0 {Tsw * 350} 0 {Tsw/100}
.options reltol=0.003 abstol=1e-12 vntol=1e-6

* ===========================================================
* MEASUREMENTS
* ===========================================================
.param Tstart = {Tsw * 100}
.param Tend = {Tsw * 140}

* Power
.meas TRAN pin AVG {-V(vin)*I(Vin)} FROM {Tstart} TO {Tend}
.meas TRAN pout AVG {V(vout)*V(vout)/Rload} FROM {Tstart} TO {Tend}
.meas TRAN efficiency PARAM {pout/pin}
.meas TRAN P_total_loss PARAM {pin - pout}

* Output quality
.meas TRAN vout_avg AVG V(vout) FROM {Tstart} TO {Tend}
.meas TRAN vout_ripple PP V(vout) FROM {Tstart} TO {Tend}
.meas TRAN il_avg AVG I(L1) FROM {Tstart} TO {Tend}
.meas TRAN il_ripple PP I(L1) FROM {Tstart} TO {Tend}

* MOS losses
.meas TRAN P_M_main_total AVG {V(sw_dcr)*Id(M_main)} FROM {Tstart} TO {Tend}
.meas TRAN P_M_rect_total AVG {V(vout_pre,sw_dcr)*(-Id(M_rect))} FROM {Tstart} TO {Tend}
.meas TRAN P_M_main_cond AVG {Id(M_main)^2 * Ron_NMOS_main} FROM {Tstart} TO {Tend}
.meas TRAN P_M_rect_cond AVG {Id(M_rect)^2 * Ron_PMOS_rect} FROM {Tstart} TO {Tend}
.meas TRAN P_M_main_sw PARAM {P_M_main_total - P_M_main_cond}
.meas TRAN P_M_rect_sw PARAM {P_M_rect_total - P_M_rect_cond}

* Passive losses
.meas TRAN P_inductor_dcr AVG {I(L1)^2 * L1_DCR} FROM {Tstart} TO {Tend}
.meas TRAN P_cap_esr AVG {I(C1)^2 * C1_ESR} FROM {Tstart} TO {Tend}

* Load step transient
.param T_step_end = {T_step + Tsw*50}
.meas TRAN vout_max_step MAX V(vout) FROM {T_step} TO {T_step_end}
.meas TRAN vout_min_step MIN V(vout) FROM {T_step} TO {T_step_end}
.meas TRAN overshoot_pct PARAM {100 * abs(vout_max_step - vout_avg) / vout_avg}
.meas TRAN undershoot_pct PARAM {100 * abs(vout_avg - vout_min_step) / vout_avg}

.meas TRAN vout_avg_loaded AVG V(vout) FROM {T_step + Tsw*15} TO {T_step_end - Tsw*5}
.meas TRAN load_regulation PARAM {100 * abs(vout_avg_loaded - vout_avg) / vout_avg}

.end
