* SpiceRL Buck Converter — AC Stability Analysis (Averaged Model)
* ============================================================
* Replica of buck_tran.net for loop gain / phase margin measurement.
*
* The switching power stage (M9/M10 + dead-time + drivers) is
* replaced with a BEHAVIORAL AVERAGED MODEL:
*   V_sw_avg = D * Vin (duty-cycle-averaged switch node voltage)
*
* The compensator (OpAmp + R4/C2/C3) and feedback divider
* (R2/R3) are IDENTICAL to the transient netlist.
*
* Loop gain is measured via Middlebrook voltage injection at
* the feedback node (N015). The loop is broken with a 1GH
* inductor (maintains DC bias) and an AC source injects the
* test signal.
*
* Outputs: phase_margin_deg, gain_margin_dB, crossover_freq
* ============================================================

* ===========================================================
* AGENT-TUNABLE PARAMETERS (same as buck_tran.net)
* ===========================================================
.param W_hi_um = 40000
.param W_lo_um = 20000
.param L1_nH = 47
.param C1_nF = 68
.param fsw_MHz = 33.3
.param R_comp = 4000
.param C_comp_nF = 4
.param C_comp2_pF = 1
.param Rload = 4
.param Vref = 0.6

* Derived
.param Tsw = {1/(fsw_MHz*1e6)}
.param L1_val = {L1_nH * 1e-9}
.param C1_val = {C1_nF * 1e-9}
.param C_comp = {C_comp_nF * 1e-9}
.param C_comp2 = {C_comp2_pF * 1e-12}

* Inductor parasitics (same scaling as transient)
.param L1_DCR = {0.093 * sqrt(L1_nH / 47)}
.param L1_Rpar = {70367.7 * (47 / L1_nH)}

* Cap parasitics
.param C1_ESR = {0.0171 * (68 / C1_nF)**0.4}
.param C1_ESL = 307p

* Feedback divider
.param R_fb_top = 10k
.param R_fb_bot = 10k

* Operating point
.param Vin = 1.8
.param Vout_dc = {Vref * (R_fb_top + R_fb_bot) / R_fb_bot}
.param D = {Vout_dc / Vin}

* PWM modulator gain (ramp peak-to-peak)
.param Vramp_pp = {Vin - 1.0}

* ===========================================================
* SUPPLY
* ===========================================================
V2 Vdd 0 {Vin}

* ===========================================================
* AVERAGED POWER STAGE
* ===========================================================
* The switching transistors M9/M10 are replaced by an averaged
* voltage source: V_sw = D * Vin. In small-signal AC, the
* duty ratio is modulated by the compensator output.
*
* Control-to-output: the averaged switch node voltage is
* d_hat * Vin, where d_hat comes from the compensator.
* We model this as: V(sw) = (V(comp_out) / Vramp_pp) * Vin
* This correctly captures the PWM gain Fm = 1/Vramp_pp.
B_sw_avg N007_ac 0 V = {(V(N024_ac) / Vramp_pp) * Vin}

* ===========================================================
* OUTPUT FILTER (same L/C as transient)
* ===========================================================
L1 N007_ac N008_ac {L1_val} Rser={L1_DCR} Rpar={L1_Rpar}
C1 N008_ac 0 {C1_val} Rser={C1_ESR} Lser={C1_ESL}

* ===========================================================
* LOAD
* ===========================================================
R1 N008_ac 0 {Rload}

* ===========================================================
* FEEDBACK DIVIDER with MIDDLEBROOK INJECTION
* ===========================================================
* Divider top: Vout → fb_before
R2 N008_ac fb_before {R_fb_top}

* LOOP BREAK: large inductor maintains DC bias across break
L_break fb_before fb_after 1G

* AC INJECTION: small signal voltage source
V_inject fb_before fb_after AC 1

* Divider bottom: fb_after → ground
R3 fb_after 0 {R_fb_bot}

* ===========================================================
* TYPE II COMPENSATOR (identical to transient)
* ===========================================================
* Error amplifier
X§U1 N023_ac fb_after Vdd 0 N024_ac level2 Avol=100 GBW=35Meg Slew=35Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT

* Reference
V3 N023_ac 0 {Vref}

* Compensation network
R4 N026_ac N024_ac {R_comp}
C2 fb_after N026_ac {C_comp}
C3 fb_after N024_ac {C_comp2}

* ===========================================================
* LIBRARIES
* ===========================================================
.lib UniversalOpAmp2.lib

* ===========================================================
* AC ANALYSIS
* ===========================================================
.ac dec 100 100 1G

* ===========================================================
* MEASUREMENTS
* ===========================================================
* Loop gain T(s) = V(fb_after) / V(fb_before)
* Phase margin: phase of T(s) at |T(s)| = 1 (0dB crossover)
* Gain margin: |T(s)| in dB at phase(T(s)) = -180°

.meas AC crossover_freq WHEN mag(V(fb_after)/V(fb_before))=1
.meas AC crossover_freq_kHz PARAM crossover_freq/1e3
.meas AC phase_margin_deg FIND phase(V(fb_after)/V(fb_before)) WHEN mag(V(fb_after)/V(fb_before))=1
.meas AC gain_margin_dB FIND dB(V(fb_after)/V(fb_before)) WHEN phase(V(fb_after)/V(fb_before))=-180

.backanno
.end
