* SpiceRL Buck Converter — Parameterized from user's proven design
* Generated from: buck_unnath (2).asc
* Original circuit verified working in LTspice.
*
* TOPOLOGY: Closed-loop synchronous buck, 1.8V → ~1.0V
*   Dead-time circuit (AND/BUF digital gates)
*   Two-stage CMOS gate drivers (pmos292p/nmos292p)
*   Power PMOS (M9) + Power NMOS (M10)
*   Type II compensator (UniversalOpAmp2 + R4/C2/C3)
*   Sawtooth ramp PWM comparator (SCHMITT A7)
*   Coilcraft 0805HP inductor + Würth WCAP capacitor
*
* Agent-tunable parameters (via spicelib set_parameters):
*   W_hi_um, W_lo_um — power transistor widths (µm)
*   L1_nH — inductor value (nH)
*   C1_nF — output capacitor (nF)
*   fsw_MHz — switching frequency (MHz)
*   R_comp — compensator resistor (Ohm)
*   C_comp_nF — compensator capacitor (nF)
*   C_comp2_pF — HF compensator cap (pF)
*   Rload — load resistance (Ohm)

* ===========================================================
* AGENT-TUNABLE PARAMETERS
* ===========================================================
.param W_hi_um = 40000
.param W_lo_um = 20000
.param L1_nH = 47
.param C1_nF = 68
.param fsw_MHz = 33.3
.param R_comp = 4000
.param C_comp_nF = 4
.param C_comp2_pF = 1
.param Rload = 4
.param Vref = 0.6

* Derived
.param Tsw = {1/(fsw_MHz*1e6)}
.param W_hi = {W_hi_um * 1e-6}
.param W_lo = {W_lo_um * 1e-6}
.param L1_val = {L1_nH * 1e-9}
.param C1_val = {C1_nF * 1e-9}
.param C_comp = {C_comp_nF * 1e-9}
.param C_comp2 = {C_comp2_pF * 1e-12}

* Inductor parasitics (Coilcraft 0805HP scaling)
.param L1_DCR = {0.093 * sqrt(L1_nH / 47)}
.param L1_Rpar = {70367.7 * (47 / L1_nH)}
.param L1_Ipk = 1

* Cap parasitics (Würth WCAP-CSGP scaling)
.param C1_ESR = {0.0171 * (68 / C1_nF)**0.4}
.param C1_ESL = 307p

* MOSFET Ron estimates (for .MEAS loss calculation)
.param Ron_PMOS = {0.1499 * 40000 / W_hi_um}
.param Ron_NMOS = {0.3749 * 20000 / W_lo_um}

* Feedback divider (sets Vout ≈ Vref * (R2+R3)/R3)
.param R_fb_top = 10k
.param R_fb_bot = 10k

* ===========================================================
* DEAD TIME CIRCUIT (digital gates)
* ===========================================================
A1 IN 0 0 0 0 N016 0 0 BUF Vhigh=1.8 Td=0.01n
A2 IN N009 0 0 0 0 N010 0 AND Vhigh=1.8 tripdt=20n
A3 N014 N016 0 0 0 0 B 0 AND Vhigh=1.8 tripdt=20n
A4 IN 0 0 0 0 N014 N009 0 BUF Td=0.1n Vhigh=1.8
A5 N010 0 0 0 0 A 0 0 BUF Vhigh=1.8 Td=0.01n

* ===========================================================
* GATE DRIVER — Signal A path (drives high-side PMOS M9)
* ===========================================================
* First stage inverter
M1 N004 A N001 N001 pmos292p l=0.18u W=3u
M2 N011 A N004 N011 nmos292p l=0.18u w=1u
* Second stage inverter (2x sizing)
M3 N005 N004 N002 N002 pmos292p l=0.18u W=6u
M4 N012 N004 N005 N012 nmos292p l=0.18u w=2u

* ===========================================================
* GATE DRIVER — Signal B path (drives low-side NMOS M10)
* ===========================================================
M5 N019 B N017 N017 pmos292p l=0.18u W=3u
M6 N021 B N019 N021 nmos292p l=0.18u w=1u
M7 N020 N019 N018 N018 pmos292p l=0.18u W=6u
M8 N022 N019 N020 N022 nmos292p l=0.18u w=2u

* ===========================================================
* SUPPLY
* ===========================================================
V2 Vdd 0 1.8

* ===========================================================
* POWER STAGE (agent tunes W_hi, W_lo)
* ===========================================================
M9 N003 N005 N006 N003 PMOS l=180n w={W_hi}
M10 N006 N020 N013 N013 NMOS l=180n w={W_lo}

* ===========================================================
* OUTPUT FILTER (agent tunes L1, C1)
* ===========================================================
L1 N007 N008 {L1_val} Ipk={L1_Ipk} Rser={L1_DCR} Rpar={L1_Rpar} Cpar=0 mfg="Coilcraft" pn="0805HP"
C1 N008 0 {C1_val} V=25 Irms=0 Rser={C1_ESR} Lser={C1_ESL} mfg="Würth Elektronik" pn="WCAP-CSGP 0603" type="X7R"

* ===========================================================
* LOAD
* ===========================================================
R1 N008 0 {Rload}

* ===========================================================
* ANTI-RINGING INDUCTORS (VDD rail decoupling — keep as-is)
* ===========================================================
L2 Vdd N003 1n Rser=0
L3 N013 0 1n Rser=0
L4 Vdd N002 1n Rser=0
L5 Vdd N001 1n Rser=0
L6 Vdd N017 1n Rser=0
L7 Vdd N018 1n Rser=0
L8 N006 N007 1n Rser=0
L9 N011 0 1n Rser=0
L10 N012 0 1n Rser=0
L11 N021 0 1n Rser=0
L12 N022 0 1n Rser=0

* ===========================================================
* FEEDBACK DIVIDER
* ===========================================================
R2 N008 N015 {R_fb_top}
R3 N015 0 {R_fb_bot}

* ===========================================================
* TYPE II COMPENSATOR (agent tunes R_comp, C_comp, C_comp2)
* ===========================================================
* Error amplifier (UniversalOpAmp2)
X§U1 N023 N015 Vdd 0 N024 level2 Avol=100 GBW=35Meg Slew=35Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT

* Reference voltage
V3 N023 0 {Vref}

* Compensation network
R4 N026 N024 {R_comp}
C2 N015 N026 {C_comp}
C3 N015 N024 {C_comp2}

* ===========================================================
* SAWTOOTH RAMP + PWM COMPARATOR (agent tunes fsw via Tsw)
* ===========================================================
VSawtooth1 N025 0 PULSE(1 1.8 0 {Tsw*0.9997} {Tsw*0.0003} 0 {Tsw})
A7 N024 N025 0 0 0 0 IN 0 SCHMITT Vt=0 Vh=0 Vlow=-1 Trise=10n tripdt=2n

* ===========================================================
* MODELS AND LIBRARIES
* ===========================================================
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\unnat\AppData\Local\LTspice\lib\cmp\standard.mos
.include models/models_292p.txt
.lib UniversalOpAmp2.lib

* ===========================================================
* SIMULATION
* ===========================================================
* UIC = Use Initial Conditions — skips DC operating point to avoid
* source-stepping convergence issues with switching circuits.
.tran 0 100u 0 10n uic
.options reltol=0.003
.options srcsteps=0

* Initial conditions for key nodes (helps convergence with UIC)
.ic V(N008)={Vref * (R_fb_top + R_fb_bot) / R_fb_bot} V(N006)=0

* ===========================================================
* MEASUREMENTS (from proven design + additional for RL env)
* ===========================================================
.param Tstart = 70u
.param Tend = 95u

* ---- INPUT / OUTPUT POWER ----
.meas TRAN Pin AVG -V(vdd)*I(V2) FROM {Tstart} TO {Tend}
.meas TRAN Pout AVG V(N008)*V(N008)/Rload FROM {Tstart} TO {Tend}
.meas TRAN Efficiency PARAM (Pout/Pin)*100
.meas TRAN P_Total_Loss PARAM Pin-Pout

* ---- OUTPUT VOLTAGE QUALITY ----
.meas TRAN vout_avg AVG V(N008) FROM {Tstart} TO {Tend}
.meas TRAN vout_ripple PP V(N008) FROM {Tstart} TO {Tend}
.meas TRAN il_avg AVG I(L1) FROM {Tstart} TO {Tend}
.meas TRAN il_ripple PP I(L1) FROM {Tstart} TO {Tend}

* ---- MOS TOTAL LOSS (Vds * Id, measured per device) ----
.meas TRAN P_M9_total AVG V(N003,N006)*(-Id(M9)) FROM {Tstart} TO {Tend}
.meas TRAN P_M10_total AVG V(N006,N013)*Id(M10) FROM {Tstart} TO {Tend}

* ---- DRIVER LOSS ----
.meas TRAN P_drivers AVG -V(vdd)*(Is(M1)+Is(M3)+Is(M5)+Is(M7)) FROM {Tstart} TO {Tend}

* ---- INDUCTOR DCR LOSS (Rser is on the L1 component itself) ----
.meas TRAN P_Ind_DCR AVG I(L1)*I(L1)*0.093 FROM {Tstart} TO {Tend}

* ---- CAPACITOR ESR LOSS ----
.meas TRAN P_C_ESR AVG I(C1)*I(C1)*0.0171 FROM {Tstart} TO {Tend}

.backanno
.end

